US06436923B1
A. 2-Benzoyl-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
To a solution of 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.72 g, 2.0 mmol), 4-dimethylaminopyridine (0.2 g), and triethylamine (1.5 mL) in CH2Cl2 (8 mL) at room temperature under nitrogen was added neat benzoyl chloride (0.42 g, 3.0 mmol) dropwise. The reaction was stirred overnight, quenched with a solution of saturated sodium bicarbonate, and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was purified by chromatography (SiO2, 30-50% ethyl acetate/hexane) to provide the title compound (0.835 g, 90% yield): ES-MS (m/z) 464 [M+H]+.

reactant | 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 2.0 mmol, 0.72 g | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | triethylamine | 1.5 mL | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 3.0 mmol, 0.42 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
catalyst | 4-dimethylaminopyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 2-Benzoyl-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.835 g, 90% yield | C(C1=CC=CC=C1)(=O)N1C(C2=CC=C(C=C2CC1)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C31H29NO3
